US05922771
To a solution of (E)-(6-methoxy-2-phenylindan-1-ylidene)acetonitrile (0.45 g, 1.72 mmol.) in ethanol (30 ml) were added a saturated ammonia/ethanol solution (10 ml) and Raney cobalt (0.3 g). The mixture was stirred for 10 hours at 10 hours at room temperature under hydrogen atmosphere (5 kgf/cm2). The Raney cobalt was filtered off, then the solvent was filtered off under reduced pressure to leave 2-(6-methoxy-2-phenylindan-1-ylidene)ethylamine., which was dissolved in a hydrogen chloride/ethanol solution. The solvent was then distilled off under reduced pressure to afford the titled compound (0.3 g, yield 58%). This compound was used for the subsequent reaction without further purification.

reactant | (E)-(6-methoxy-2-phenylindan-1-ylidene)acetonitrile | 1.72 mmol, 0.45 g | COC1=CC=C2CC(/C(/C2=C1)=C\C#N)C1=CC=CC=C1 | C18H15NO
reactant | ammonia ethanol | 10 ml | N.C(C)O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | cobalt | 0.3 g | [Co] | Co
product | 2-(6-methoxy-2-phenylindan-1-ylidene)ethylamine | COC1=CC=C2CC(C(C2=C1)=CCN)C1=CC=CC=C1 | C18H19NO
